US07435837B2
Treatment of 4-bromo-2-fluorophenol (25.0 g, 130.9 mmol) with potassium carbonate (72.35 g, 523.53 mmol) and allyl bromide (19.00 g, 157.06 mmol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 2-allyl-4-bromo-6-fluorophenol. Treatment of 2-allyl-4-bromo-6-fluorophenol (25.6 g, 110.8 mmol) with 3-chloroperoxybenzoic acid (57.36 g, 332.38 mmol, 77%) followed by potassium carbonate (38.28 g, 277.0 mmol) generally according to the procedure described for Intermediate 9 afforded 19.1 g (70%) of (±)-(7-fluoro-5-bromo-2,3-dihydro-1-benzofuran-2-yl)methanol. Treatment of (±)-(7-fluoro-5-bromo-2,3-dihydro-1-benzofuran-2-yl)methanol (18.61 g, 75.3 mmol) with p-toluenesulfonyl chloride (17.22 g, 90.34 mmol) generally according to the procedure described for Intermediate 10 gave 22.6 g (75%) of (±)-(7-fluoro-5-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. Treatment of (±)-(7-fluoro-5-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.5 g, 1.25 mmol) and 2-methylphenylboronic acid (0.254 g, 1.87 mmol) generally according to the procedure described for Intermediate 35 afforded 0.282 g, (55%) of (±)-([7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.19 g, 3.0 mmol) generally according to the procedure described for Intermediate 98 afforded 0.17 g (99%) of (±)-2-(azidomethyl)-7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran. Treatment of (±)-2-(azidomethyl)-7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran with polymer-supported triphenylphosphine (0.30 g, 3.0 mmol) according to the procedure described in Example 154 afforded 0.038 g (22%) of (±)-([7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl]amine as a white solid, hydrochloride salt. mp >250° C.

reactant | (±)-(7-fluoro-5-bromo-2,3-dihydro-1-benzofuran-2-yl)methanol | 75.3 mmol, 18.61 g | FC1=CC(=CC=2CC(OC21)CO)Br | C9H8BrFO2
reactant | p-toluenesulfonyl chloride | 90.34 mmol, 17.22 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (±)-(7-fluoro-5-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 22.6 g, 75% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2F)Br | C16H14BrFO4S
